US03971773
A. 16α-(2,2-Diethoxyethoxy)-11β,17,21-trihydroxypregn-4-ene-3,20-dione
A solution of 2,2-diethoxy-1-diazoethane (prepared from 0.0935 mole of N-2,2-diethoxyethyl urea by the method of W. Kirmse and B. Buschhoff, Chem. Ber., 100, 1491 (1967)) in 300 ml of 3:2 ether pentane is diluted with 100 ml of methanol and cooled to 0°C. 11β,16α,17,21-Tetrahydroxypregn-4-ene-3,20-dione, 16,17-cycloborate is added in portions until nitrogen evolution ceases. The solvent is removed in vacuo and the residue is recrystallized from methanol to yield the title compound.

reactant | 2,2-diethoxy-1-diazoethane | C(C)OC(C=[N+]=[N-])OCC | C6H12N2O2
reactant | N-2,2-diethoxyethyl urea | 0.0935 mole | C(C)OC(CNC(=O)N)OCC | C7H16N2O3
reactant | 11β,16α,17,21-Tetrahydroxypregn-4-ene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@](C(CO)=O)([C@]2(C1)C)O)O)=O)C | C21H30O6
solvent | ether pentane | 300 ml | CCOCC.CCCCC
solvent | methanol | 100 ml | CO | CH4O
product | 16α-(2,2-Diethoxyethoxy)-11β,17,21-trihydroxypregn-4-ene-3,20-dione | C(C)OC(CO[C@H]1[C@](C(CO)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O)OCC | C27H42O8
